US08313807B2
Synthesis of 4-(2,2-bis(methoxy)ethylamino)-3-penten-2-one
21.0 g of aminoacetaldehyde dimethylacetal (0.2 moles) were dissolved into 100 ml of tetrahydrofuran to which 20.0 g of 2,4-pentanedione (0.2 moles) were added dropwise over 5 minutes. The resulting mixture was then stirred overnight after which time the solvent and water of condensation formed during the reaction was removed by vacuum distillation. The final product was then vacuum distilled as a clear liquid. Yield of MeC(O)CH2C(NCH2CH(OMe)2)Me=25.0 g (72% of theoretical).

reactant | aminoacetaldehyde dimethylacetal | 0.2 moles, 21.0 g | COC(CN)OC | C4H11NO2
reactant | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
reactant | 2,4-pentanedione | 0.2 moles, 20.0 g | CC(CC(C)=O)=O | C5H8O2
solvent | water | O | H2O
product | 4-(2,2-bis(methoxy)ethylamino)-3-penten-2-one | COC(CNC(=CC(C)=O)C)OC | C9H17NO3
